US05635510
60.2 Synthesis of 4-(3,4-dichloro-phenyl)-4-[2-(tetrahydro-pyran-2-yloxy)-ethyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidine
Combine 4-(3,4-dichloro-phenyl)-4-[2-(tetrahydro-pyran-2-yloxy) -ethyl]-pyrrolidine (10 mmol), K2CO3 (30 mmol), and 3,4,5-trimethoxy-benzyl bromide (10 mmol) in THF/H2O (4/1, 200 mL). Heat to reflux and stir for 16 h. Concentrate in vacuo to obtain a residue. Dilute the residue with ethyl acetate and extract with H2O. Separate the layers, dry the organic layer over MgSO4, filter, and concentrate in vacuo. Chromatograph on silica gel to give the title compound.

reactant | 4-(3,4-dichloro-phenyl)-4-[2-(tetrahydro-pyran-2-yloxy) -ethyl]-pyrrolidine | 10 mmol | ClC=1C=C(C=CC1Cl)C1(CCNC1)CCOC1OCCCC1 | C17H23Cl2NO2
reactant | K2CO3 | 30 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,4,5-trimethoxy-benzyl bromide | 10 mmol | COC=1C=C(CBr)C=C(C1OC)OC | C10H13BrO3
solvent | THF H2O | 200 mL | C1CCOC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3,4-dichloro-phenyl)-4-[2-(tetrahydro-pyran-2-yloxy)-ethyl)-1-(3,4,5-trimethoxy-benzyl)-pyrrolidine | ClC=1C=C(C=CC1Cl)C1(CCN(C1)CC1=CC(=C(C(=C1)OC)OC)OC)CCOC1OCCCC1 | C27H35Cl2NO5
